US03975528
Preparation of 2-(2-Pyridylimino)-1,3-dithietane
Triethylammonium 2-pyridyldithiocarbamate (27.1 g.) was dissolved in 100 ml. of dimethylformamide and added dropwise to a stirred mixture of 14 ml. of triethylamine and 36.3 ml. of methylene bromide in 65 ml. of dimethylformamide. After addition was complete, the mixture was stirred another 1.5 hr. and then poured into water. The resulting mixture was extracted with ether and, after being washed with water, the ether mixture was extracted with several portions of 3N sulfuric acid. The aqueous extract was cooled in an ice bath and then made alkaline with 8N sodium hydroxide. The product was collected by filtration and washed with water. The crude dry product (12.0 g.) was recrystallized from ethanol to give 10.1 g. of colorless solid, m.p. 98.7°-99.7°C.

reactant | Triethylammonium 2-pyridyldithiocarbamate | 27.1 g | N1=C(C=CC=C1)NC([S-])=S.C(C)[NH+](CC)CC
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methylene bromide | C(Br)Br | CH2Br2
solvent | water | O | H2O
product | 2-(2-Pyridylimino)-1,3-dithietane | N1=C(C=CC=C1)N=C1SCS1 | C7H6N2S2
